US06303347B1
In the same manner as described in Example 20-(1), 6-amino-1-(t-butyldiphenylsilyloxy)hexane (1.48 g, 4.15 mmol) was acylated with (R)-3-tetradecanoyloxytetradecanoic acid (2.07 g, 4.56 mmol) in the presence of EDC·MeI (1.35 g, 4.56 mmol) and then deprotected with TBAF (1.0 M in THF, 1.53 mL, 1.53 mmol) in THF (46 mL) to afford 700 mg (30%) of 6-[(R)-3-tetradecanoyloxytetradecanoylamino]-1-hexanol as an off-white solid.

reactant | 6-amino-1-(t-butyldiphenylsilyloxy)hexane | 4.15 mmol, 1.48 g | NCCCCCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C22H33NOSi
reactant | (R)-3-tetradecanoyloxytetradecanoic acid | 4.56 mmol, 2.07 g | C(CCCCCCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C28H54O4
reactant | EDC·MeI | 4.56 mmol, 1.35 g | C(CCl)Cl.CI
reactant | TBAF | 1.53 mmol, 1.0 M, 1.53 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 46 mL | C1CCOC1 | C4H8O
product | 6-[(R)-3-tetradecanoyloxytetradecanoylamino]-1-hexanol | 700 mg, 30% | C(CCCCCCCCCCCCC)(=O)O[C@@H](CC(=O)NCCCCCCO)CCCCCCCCCCC | C34H67NO4
